US08309581B2
a) 4-[2-(2-Cyclopentylmethoxy-phenyl)-5,6-difluoro-benzoimidazol-1-ylmethyl]-3-fluoro-benzonitrile
The title compound was prepared in analogy to Example 5, intermediate a, from 4-[5,6-difluoro-2-(2-hydroxy-phenyl)-benzoimidazol-1-ylmethyl]-3-fluoro-benzonitrile and iodomethyl-cyclopentane (CAS Reg. No. 27935-87-1). Off-white solid (51%). MS (Turbo Spray): m/z=462.2 (M+H).

reactant | 4-[5,6-difluoro-2-(2-hydroxy-phenyl)-benzoimidazol-1-ylmethyl]-3-fluoro-benzonitrile | FC1=CC2=C(N(C(=N2)C2=C(C=CC=C2)O)CC2=C(C=C(C#N)C=C2)F)C=C1F | C21H12F3N3O
reactant | iodomethyl-cyclopentane | ICC1CCCC1 | C6H11I
product | 4-[2-(2-Cyclopentylmethoxy-phenyl)-5,6-difluoro-benzoimidazol-1-ylmethyl]-3-fluoro-benzonitrile | C1(CCCC1)COC1=C(C=CC=C1)C1=NC2=C(N1CC1=C(C=C(C#N)C=C1)F)C=C(C(=C2)F)F | C27H22F3N3O
